US03987047
5-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester-6-oxide was prepared from 5-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester and hydrogen peroxide analogous to Example 163.

reactant | 5-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)O | C17H20N2O3
reactant | hydrogen peroxide | OO | H2O2
product | 5-Hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester-6-oxide | Yield: 17% | C(C)OC(=O)N1CC(C2=[N+](C=3C=CC=CC3C(=C2CC1)C)[O-])O | C17H20N2O4
